US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(1-hydroxyethyl)benzamide (Compound No. 57)
5-Acetyl-N-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxybenzamide (50.5 mg, 0.13 mmol) was suspended in ethanol (2 mL). Sodium borohydride (23.6 mg, 0.62 mmol) was added, and the mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was washed with isopropyl ether/n-hexane under suspension to give the title compound (39.7 mg, 78.3%) as white powder.

reactant | 5-Acetyl-N-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxybenzamide | 0.13 mmol, 50.5 mg | C(C)(=O)C=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C17H11F6NO3
reactant | Sodium borohydride | 0.62 mmol, 23.6 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(1-hydroxyethyl)benzamide | 39.7 mg, 78.3% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C(C)O)O)=O)(F)F | C17H13F6NO3
